US06710043B1
A solution of sulfuryl chloride (3.55 ml) in chloroform (45 ml) was added a solution of 1-acetylpiperazine (5.66 mg) and triethylamine (6.16 ml) in chloroform (15 ml) dropwise under cooling on an ice-water bath. After stirring for 6 hours, a precipitate was collected by filtration. After drying over sodium hydroxide, 1-acetylpiperazine-4-sulfonyl chloride (2.43 g) was obtained.

reactant | sulfuryl chloride | 3.55 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1-acetylpiperazine | 5.66 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | triethylamine | 6.16 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-acetylpiperazine-4-sulfonyl chloride | 2.43 g | C(C)(=O)N1CCN(CC1)S(=O)(=O)Cl | C6H11ClN2O3S
